US07858741B2
A suspension of Fmoc-Pro-Mop-Gly-OBn (0.74 g, 1.21 mmol) and Pd/C (0.07 g) in MeOH (25 mL) was stirred under an atmosphere of H2 (g) for 2 h. The mixture was filtered through a pad of Celite® and evaporated leaving a white solid. The product was isolated by flash chromatography (9:1 CH2Cl2/MeOH-EtOH) affording Fmoc-Pro-Mop-Gly-OH (0.54 g, 86%) as a white solid. 1H NMR (500 MHz, DMSO-d6, ˜1:1 ratio of 2 rotamers): δ7.91-7.82 (m, 2 H), 7.65 (t, J=7.4 Hz, 1 H), 7.58 (d, J=7.4 Hz, 0.5 H), 7.55 (d, J=7.5 Hz, 0.5 H), 7.44-7.28 (m, 5 H), 4.60 (dd, J=8.6, 3.1 Hz, 0.5 H), 4.52 (dd, J=8.6, 2.7 Hz, 0.5 H), 4.45-4.40 (m, 0.5 H), 4.34 (app t, J=7.4 Hz, 0.5 H), 4.27-4.10 (m, 3 H), 4.04-3.97 (m, 1 H), 3.76-3.70 (m, 0.5 H), 3.67-3.57 (m, 1.5 H), 3.42-3.29 (signals under H2O peak), 3.22 (s, 1.5 H), 3.11 (s, 1.5 H), 2.32-2.29 (m, 0.5 H), 2.28-2.18 (m, 0.5 H), 2.17-2.06 (m, 1.5 H), 2.02-1.73 (m, 4.5H); 13C NMR (125 MHz, DMSO-d6, ˜1:1 ratio of 2 rotamers): δ171.7, 171.0, 170.3, 170.2, 153.8, 143.9 (3 signals), 143.8, 140.7, 140.6, 127.7 (2 signals), 127.2, 127.1, 125.3, 125.1, 120.1, 120.0 (2 signals), 78.6, 78.4, 66.8, 66.5, 58.3 (2 signals), 57.9, 57.6, 56.1, 56.0, 55.9, 51.3, 51.2, 47.0, 46.7, 46.6, 46.3, 42.0, 34.3, 29.6, 28.6, 23.7, 22.6;

reactant | N-9-Fluorenylmethoxycarbonyl-(2S)-prolyl-(2S,4R)-4-methoxyprolylglycine Benzyl Ester | 1.21 mmol, 0.74 g | C(C1=CC=CC=C1)OC(CNC([C@H]1N(C[C@@H](C1)OC)C([C@H]1N(CCC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)=O | C35H37N3O7
reactant | CH2Cl2 MeOH EtOH | C(Cl)Cl.CO.CCO
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 0.07 g | [Pd] | Pd
product | N-9-Fluorenylmethoxycarbonyl-(2S)-prolyl-(2S,4R)-4-methoxyprolylglycine | 0.54 g, 86% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@H](C(=O)N2[C@H](C(=O)NCC(=O)O)C[C@H](C2)OC)CCC1 | C28H31N3O7
